US08314100B2
b) Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate
2-Amino-3,6,7-trimethoxyquinoxaline (2.60 g, 11.0 mmol) and ethyl chloroformate (2.40 g, 22.1 mmol) were dissolved in dichloromethane (50 ml) at room temperature and thereto pyridine (1.75 g, 22.1 mmol) was added. The mixture was stirred at room temperature for 22 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 3.04 g of the titled compound (yield, 90%).

reactant | 2-Amino-3,6,7-trimethoxyquinoxaline | 11.0 mmol, 2.60 g | NC1=NC2=CC(=C(C=C2N=C1OC)OC)OC | C11H13N3O3
reactant | ethyl chloroformate | 22.1 mmol, 2.40 g | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 22.1 mmol, 1.75 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | 3.04 g, 90% | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
